US06589970B2
Step 4: 1-Phenyl-5-propyl-1H-pyrazole-4-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide.
A mixture of 1-phenyl-5-propyl-1H-pyrazole-4-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide (0.30 g, 0.58 mmol), prepared in the previous step, sodium azide (0.113 g, 1.74 mmol) and ammonium chloride (0.093 g, 1.74 mmol) in 10 mL of DMF was stirred under nitrogen at 100° C. for 6 h. By TLC the reaction was not complete. Sodium azide (0.113 g, 1.74 mmol) and ammonium chloride (0.093 g, 1.74 mmol) were added and the reaction was stirred under nitrogen at 100° C. for 6.5 h. The reaction was diluted with water, made basic by the addition of 1N NaOH and extracted five times with ethyl acetate. The combined organic extracts were acidified with 1N HCl and the solvent removed under reduced pressure. The residue was diluted with water and the solid that formed was collected by filtration and dried under reduced pressure to give the title compound (0.108 g, 33%) as a tan solid, mp 75-85° C.

reactant | 1-phenyl-5-propyl-1H-pyrazole-4-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide | 0.58 mmol, 0.30 g | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CN(C(=O)C=1C=NN(C1CCC)C1=CC=CC=C1)C | C27H25BrN4O2
reactant | sodium azide | 1.74 mmol, 0.113 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.74 mmol, 0.093 g | [Cl-].[NH4+]
reactant | Sodium azide | 1.74 mmol, 0.113 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.74 mmol, 0.093 g | [Cl-].[NH4+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Phenyl-5-propyl-1H-pyrazole-4-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide | 0.108 g, 33% | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)CN(C(=O)C=1C=NN(C1CCC)C1=CC=CC=C1)C | C27H26BrN7O2
